US04791124
To a stirred solution of 2-(4-fluorophenyl)-5-(5-methylthiothien-2-yl)thiazole (1.07 g, 0.0035 mole) in methylene chloride (50 mL) was added dropwise a solution of m-chloroperbenzoic acid (1.7 g, 0.0084 mole) in methylene chloride (25 mL). After complete addition the mixture was stirred at room temperature for approximately 18 hours. Approximately 100 mL of an aqueous 10% sodium sulfate solution was added, and the mixture was stirred for about 15 minutes. The mixture was washed in succession with an aqueous, saturated, sodium bicarbonate solution, water, and an aqueous, saturated, sodium chloride solution. A thin layer chromatograph of the organic phase indicated that starting material remained. Thus the washed organic phase was diluted with methylene chloride, and an additional 1.7 grams of m-chloroperoxybenzoic acid was added. This mixture was stirred and heated at reflux until only one spot was seen by thin layer chromatography. Approximately 100 mL of an aqueous 10% sodium sulfate solution was added, and the mixture was stirred for about 15 minutes. This mixture was washed in succession with an aqueous, saturated sodium bicarbonate solution, water, and an aqueous, saturated, sodium chloride solution. The washed organic phase was evaporated under reduced pressure, leaving a solid residue. This residue was purified by column chromatography on silica gel, elution with methylene chloride:ethyl acetate (19:1), to yield 0.59 g of 2-(4-fluorophenyl)-5(5-methylsulfonylthien-2-yl)thiazole as a solid, mp 183°-184° C.

reactant | 2-(4-fluorophenyl)-5-(5-methylthiothien-2-yl)thiazole | 0.0035 mole, 1.07 g | FC1=CC=C(C=C1)C=1SC(=CN1)C=1SC(=CC1)SC | C14H10FNS3
reactant | m-chloroperbenzoic acid | 0.0084 mole, 1.7 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-fluorophenyl)-5(5-methylsulfonylthien-2-yl)thiazole | 0.59 g | FC1=CC=C(C=C1)C=1SC(=CN1)C=1SC(=CC1)S(=O)(=O)C | C14H10FNO2S3
